US04092321
A solution of 2-chloro-5-(phenylsulfinyl)pyridine (2.37 g., .01 mole) in 10 ml. of hexamethylphosphoramide is treated with 2.2 g. of methylchloroacetylcarbamate. The solution is warmed to 50° C for 1 hour, cooled, combined with 5 ml. of methanol and saturated with anhydrous ammonia. The mixture is warmed at 100° C for 3 hours. After cooling, the reaction mixture is diluted with 5 volumes of ether and the crude product is collected by filtration. Recrystallization from hot methanol yields 2-(methoxycarbonylamino)-5-(phenylsulfinyl) imidazo [1,2-a] pyridine, m.p. 249°-251° C.

reactant | 2-chloro-5-(phenylsulfinyl)pyridine | .01 mole, 2.37 g | ClC1=NC=C(C=C1)S(=O)C1=CC=CC=C1 | C11H8ClNOS
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | methylchloroacetylcarbamate | COC(NC(CCl)=O)=O | C4H6ClNO3
reactant | ammonia | N | H3N
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 2-(methoxycarbonylamino)-5-(phenylsulfinyl) imidazo [1,2-a] pyridine | COC(=O)NC=1N=C2N(C(=CC=C2)S(=O)C2=CC=CC=C2)C1 | C15H13N3O3S
